US04410539
Hydrogen chloride gas was passed into a solution of 5-methylbenzo[b]thiophene-2-carboxylic acid (7.50 g.) in methanol (250 ml.) until the solution was saturated. The solution was heated under reflux for 1 hour and then evaporated. The residue was washed with water and recrystallized from methanol to give 5-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (7.80 g.) m.p. 78°-79°.

reactant | Hydrogen chloride | Cl | ClH
reactant | 5-methylbenzo[b]thiophene-2-carboxylic acid | 7.50 g | CC1=CC2=C(SC(=C2)C(=O)O)C=C1 | C10H8O2S
reactant | methanol | 250 ml | CO | CH4O
product | 5-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 7.80 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)C | C11H10O2S
